US07049321B2
Synthesis of (S)-2-Ethyl-1-thia-4,8-diaza-spiro[4.5]decan-3-one, AF292
To a cooled (ice-salt bath) stirred solution of AF267B (6.1 gr, 0.028 mol) in dichloromethane (60 ml) was added m-chloroperbenzoic acid (mCPBA) in small portions over a period of 15 min mCPBA (70%, 7.02 gr, 0.028 mol total). The mixture was stirred for 1 hr and then treated with iron (II) chloride (2.14 ml of 1M solution in water). Stirring and cooling (−10° C.) were continued for 1 hr and then stirring continued for 2 hrs at room temperature. Ethylene diamine (1.9 ml, 0.285 mol), sodium hydroxide (30.5 ml of 2N aqueous solution), and petroleum ether 40–60° C. (60 ml) were added. After vigorous shaking the layers were separated, the aqueous layer was extracted with mixture of dichloromethane/petroleum ether 1:1 (600 ml) followed by dichloromethane (first 600 ml then 300 ml). The combined extracts were dried (Na2SO4), filtered and the solvents were removed under reduced pressure. Flash chromatography (silica-gel 60, 230–400 mesh, Merck 1.09385, elution with methanol/chloroform/ammonium hydroxide 10:89:1 v/v) of the residue gave AF292. 1H NMR (CDCl3) δ 1.02 (t, j=7 Hz, 3H), 1.76 1.92 and 2.07 (3×m, 6H), 2.84 (m, 2H), 3.04 (m, 2H), 3.83 (dd, j=8.8,4 Hz, 1H), 7.66 (NH) ppm; 13C NMR (CDCl3) δ 11.50, 44.10, 48.80, 64.22, 175.22 ppm: MS m/e 200(M+). The compound was >99.9% purity by HPLC, GC.

reactant | AF267B | 0.028 mol, 6.1 gr | CC[C@H]1C(=O)NC2(S1)CCN(CC2)C | C10H18N2OS
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | mCPBA | 0.028 mol, 7.02 gr | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Ethylene diamine | 0.285 mol, 1.9 ml | C(CN)N | C2H8N2
reactant | sodium hydroxide | 2N, 30.5 ml | [OH-].[Na+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
catalyst | iron (II) chloride | 1M, 2.14 ml | [Fe](Cl)Cl
product | (S)-2-Ethyl-1-thia-4,8-diaza-spiro[4.5]decan-3-one | C(C)[C@@H]1SC2(NC1=O)CCNCC2 | C9H16N2OS
